US04661594
18.4 g of 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane are added dropwise, at room temperature, with stirring, to a solution of 19.7 g (0.1 mol) of 4-butylamino1,2,2,6,6-pentamethylpiperidine in 100 ml of triethylamine. After heating at the reflux temperature for 15 hours, the mixture is diluted with toluene and the precipitated hydrochloride is filtered off. Evaporation of the filtrate gives 2-[N-butyl(1,2,2,6,6-pentamethyl-4-piperidyl)amino]-5,5-dimethyl-1,3,2-dioxaphosphorinane as an oil which boils at 120° under 40 Pa (Compound No. 1).

reactant | 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane | 18.4 g | ClP1OCC(CO1)(C)C | C5H10ClO2P
reactant | 4-butylamino1,2,2,6,6-pentamethylpiperidine | 0.1 mol, 19.7 g | C(CCC)NC1CC(N(C(C1)(C)C)C)(C)C | C14H30N2
solvent | triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-[N-butyl(1,2,2,6,6-pentamethyl-4-piperidyl)amino]-5,5-dimethyl-1,3,2-dioxaphosphorinane | C(CCC)N(P1OCC(CO1)(C)C)C1CC(N(C(C1)(C)C)C)(C)C | C19H39N2O2P
